US08748624B2
STEP C: 3-(5-(2-(((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)-4-methoxyphenyl)picolinamido)propanoic acid
A 3M aqueous solution of NaOH (0.20 mL, 0.60 mmol) was added to a THF solution (3 mL) of ethyl 3-(5-(2-(((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)-4-methoxyphenyl)picolinamido)propanoate (116 mg, 0.20 mmol) and the resulting mixture was stirred at room temperature. After 16 h the resulting mixture was concentrated in vacuo, suspended in water, and acidified with 2 M HCl. The resulting precipitate was filtered off and dried in vacuo to yield the title compound.

reactant | NaOH | 0.60 mmol, 0.20 mL | [OH-].[Na+]
reactant | ethyl 3-(5-(2-(((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)-4-methoxyphenyl)picolinamido)propanoate | 0.20 mmol, 116 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)NCC1=C(C=CC(=C1)OC)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C31H29Cl2N3O4
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-(5-(2-(((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)-4-methoxyphenyl)picolinamido)propanoic acid | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)NCC1=C(C=CC(=C1)OC)C=1C=CC(=NC1)C(=O)NCCC(=O)O | C29H25Cl2N3O4
